US07812022B2
Step G: N-(2,3-Dihydro-1,4-benzodioxin-6-yl)-4-[2-(3-nitrophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine
To a solution of 3-[2-(methylsulfinyl)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine (1.32 g, 3.49 mmol) in ethanol (4.0 mL) is added 1,4-benzodioxan-6-amine (0.56 mL, 4.54 mmol) and conc. HCl (3 drops). The dark mixture is heated in a microwave apparatus at 160° C. for 20 min. The mixture is monitored, and heated for an additional 10 min. The mixture is diluted with DCM and concentrated to a brown foam. The crude material is purified by silica gel chromatography (30-50% EtOAc/hexanes) to give the desired product (1.09 g). 1H NMR (400 MHz, d6-DMSO) δ 9.36 (s, 1H), 8.88 (d, 1H, J=6.8), 8.45 (s, 1H), 8.28-8.31 (m, 3H), 8.01-8.03 (m, 1H), 7.72 (t, 1H, J=8.0), 7.47-7.51 (m, 1H), 7.13-7.18 (m, 2H), 6.97-6.95 (m, 1H), 6.63-6.65 (m, 2H), 4.14 (m, 1H), 7.13-7.18 (m, 2H), 6.95-6.97 (m, 1H), 6.63-6.65 (m, 2H), 4.14 (s, 4H).

reactant | 3-[2-(methylsulfinyl)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine | 3.49 mmol, 1.32 g | CS(=O)C1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C18H13N5O3S
reactant | 1,4-benzodioxan-6-amine | 4.54 mmol, 0.56 mL | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
catalyst | HCl | 3 drops | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2,3-Dihydro-1,4-benzodioxin-6-yl)-4-[2-(3-nitrophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 1.09 g | O1CCOC2=C1C=CC(=C2)NC2=NC=CC(=N2)C=2C(=NN1C2C=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C25H18N6O4
